US07429579B2
c) 7-(Ethylsulfonyl)-3-(4-{[4-methyl-5-(6-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
4-(4-Methyl-5-quinolin-6-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-butyraldehyde (0.1 g, 0.32 mmol) and 7-Ethanesulfonyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.11 g, 0.45 mmol) were stirred at room temperature in dichloromethane (4 ml) for 20 min. Sodium triacetoxyborohydride (71 mg, 0.34 mmol) was then added and the mixture stirred overnight. The mixture was diluted with dichloromethane (50 ml) and washed with saturated sodium bicarbonate solution (30 ml). The aqueous was extracted with further dichloromethane (50 ml) and the combined organic portions were dried (Na2SO4), filtered and evaporated to give a yellow oil. Purification by silica gel chromatography (eluent 10% MeOH:EtOAc) which gave the title compound as a colourless oil (35 mg, 21%).

reactant | 4-(4-Methyl-5-quinolin-6-yl-4H-[1,2,4]triazol-3-ylsulfanyl)-butyraldehyde | 0.32 mmol, 0.1 g | CN1C(=NN=C1C=1C=C2C=CC=NC2=CC1)SCCCC=O | C16H16N4OS
reactant | 7-Ethanesulfonyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.45 mmol, 0.11 g | C(C)S(=O)(=O)C1=CC2=C(CCNCC2)C=C1 | C12H17NO2S
reactant | Sodium triacetoxyborohydride | 0.34 mmol, 71 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-(Ethylsulfonyl)-3-(4-{[4-methyl-5-(6-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 35 mg, 21% | C(C)S(=O)(=O)C1=CC2=C(CCN(CC2)CCCCSC2=NN=C(N2C)C=2C=C3C=CC=NC3=CC2)C=C1 | C28H33N5O2S2
